US04946818
There was added 40 grams of methyldecylsilane for a period of 25 minutes to a mixture of 95.5 parts of 1-octene and 8 parts per million of rhodium catalyst as prepared in Example 2. A slow stream of air bubbled into the solution prior to the addition of the methyldecylsilane. The octene solution containing the rhodium catalyst was also preheated to a temperature of 80° C. After an additional 30 minutes of heating, an additional amount of rhodium catalyst was added to the mixture for a final total of 17 parts per million. After 1/2 hour, a quantitative yield of methyldecyldioctylsilane was obtained.

reactant | methyldecylsilane | 40 grams | C[SiH2]CCCCCCCCCC | C11H26Si
reactant | 1-octene | C=CCCCCCC | C8H16
catalyst | rhodium | [Rh] | Rh
product | methyldecyldioctylsilane | quantitative yield | C[Si](CCCCCCCC)(CCCCCCCC)CCCCCCCCCC | C27H58Si
